US05916786
Glycine (18.8 grams) is dissolved in 2 liters of deionized water, and the pH is adjusted by the addition of 10% sodium hydroxide to 9.0. Cis-1,2-cydopentane dimethanol (10.0 grams) is added to the glycine solution with stirring until dissolution occurs, followed by the addition of β-NAD+ (Sigma, 2 grams) and flavin mononucleotide (Sigma, 30 grams). To the resulting dear orange solution is added horse liver alcohol dehydrogenase (Sigma, 250 mg, approximately 400 units). After the enzyme has dissolved the pH is readjusted to 9.0 with 10% sodium hydroxide, and the reaction mixture is stirred at 30° C. During the reaction, the pH is maintained at 9.0 with a pH-stat by the addition of 10% sodium hydroxide. Progress of the reaction is monitored by thin layer chromatography (Silica gel plates, eluent 1:1 ethyl acetate-methylene chloride; visualization by dipping in a solution of 5% anisaldehyde in ethanol and heating). When the reaction is complete as judged by thin layer chromatography, the reaction mixture is adjusted to a pH of 13 with 10 M sodium hydroxide and then extracted 3 times with 250 ml of methylene chloride. The pH of the aqueous mixture is then adjusted to 3 with concentrated HCl, followed by continuous extraction with 1 liter of ethyl acetate for 24 hours. The ethyl acetate extract is dried over anhydrous magnesium sulfate and evaporated under reduced pressure to yield (1R,5S)-(+)-7-oxabicyclo[3.3.0]octan-6-one (9 grams) as an orange oil. The product may be further purified by distillation at reduced pressure to yield a colorless oil.

reactant | Glycine | 18.8 grams | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Cis-1,2-cydopentane dimethanol | 10.0 grams | [C@@H]1([C@H](CCC1)CO)CO | C7H14O2
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
solvent | water | 2 liters | O | H2O
solvent | ethanol | C(C)O | C2H6O
catalyst | β-NAD+ | 2 grams | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)([O-])OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N | C21H27N7O14P2
solvent | ethyl acetate methylene chloride | C(C)(=O)OCC.C(Cl)Cl
product | (1R,5S)-(+)-7-oxabicyclo[3.3.0]octan-6-one | 9 grams | [C@H]12CCC[C@@H]2C(OC1)=O | C7H10O2
